US03966723
2-amino-1,2,3,4,10,14b-hexahydro-pyridino[1,2-a]-dibenzo[c,f]-azepine
4 g of 2-azido-1,2,3,4,10,14b-hexahydro-pyridino[1,2-a]-dibenzo[c,f]-azepine (axial) is added to a suspension of 3 g of LiAlH4 in dry ether. The mixture obtained is heated for 1 hour, and after that cooled down. Then 12 ml of water are added to the mixture dropwise, whereby an inorganic precipitate is formed. The inorganic residue is removed by filtration after which the filtrate is evaporated to dryness. Obtained in this manner: 3.5 g (oil). Rf in methanol:acetone (9:1) = 0.28 (axial position).

reactant | 2-azido-1,2,3,4,10,14b-hexahydro-pyridino[1,2-a]-dibenzo[c,f]-azepine | 4 g | N(=[N+]=[N-])C1CC2N(C3=C(CC4=C2C=CC=C4)C=CC=C3)CC1 | C18H18N4
reactant | LiAlH4 | 3 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 12 ml | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | methanol acetone | CO.CC(=O)C
product | 2-amino-1,2,3,4,10,14b-hexahydro-pyridino[1,2-a]-dibenzo[c,f]-azepine | NC1CC2N(C3=C(CC4=C2C=CC=C4)C=CC=C3)CC1 | C18H20N2
